US06316482B1
To a solution of methyl 2-tert-butyldiphenylsiloxymethyl-1H-benzimidazole-4-carboxylate (500 mg) in pyridine (3 ml) was added lithium iodide (602 mg) under nitrogen at ambient temperature and the mixture was heated to reflux for 3 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in chloroform. The solution was washed with water and brine and the organic layer was dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was chromatographed on silica gel eluting with a mixture of chloroform and methanol (chloroform only˜50:1˜25:1˜10:1) to give 2-tert-butyldiphenylsiloxymethyl-1H-benzimidazole-4-carboxylic acid (425 mg) as a powder.

reactant | methyl 2-tert-butyldiphenylsiloxymethyl-1H-benzimidazole-4-carboxylate | 500 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=NC2=C(N1)C=CC=C2C(=O)OC | C26H28N2O3Si
reactant | lithium iodide | 602 mg | [I-].[Li+]
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 2-tert-butyldiphenylsiloxymethyl-1H-benzimidazole-4-carboxylic acid | 425 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1=NC2=C(N1)C=CC=C2C(=O)O | C25H26N2O3Si
